US08492559B2
Stage 4: tert-Butyl 2-(5-(3-chloro-1H-pyrrole-2-carboxamido)-1H-indol-1-yl)acetate
DIPEA (4.0 equiv.), EDCI (1.5 equiv.) and HOBt (1.0 equiv.) were added at 0° C. to a solution of 3-chloro-1H-pyrrole-2-carboxylic acid (5.24 mmol, 1.0 equiv.) in DCM (25 ml). The mixture was stirred for 15 min at 25° C. and then cooled to 0° C. again. A solution of tert-butyl 2-(6-amino-1H-indol-1-yl)acetate (intermediate A—for synthesis see above) (5.24 mmol, 1.0 equiv.) in DCM (10 ml) was added, and the reaction mixture was stirred for 16 h at 25° C. It was then diluted with DCM (200 ml), washed with sat. ammonium chloride solution (2×50 ml), sat. sodium hydrogen carbonate solution (2×50 ml) and sat. NaCl solution (2×50 ml), dried over Na2SO4 and concentrated under reduced pressure. The crude product was purified by column chromatography (6% methanol in DCM). Yield: 56%

reactant | DIPEA | 4.0 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 1.5 equiv. | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.0 equiv. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-chloro-1H-pyrrole-2-carboxylic acid | 5.24 mmol, 1.0 equiv. | ClC1=C(NC=C1)C(=O)O | C5H4ClNO2
reactant | tert-butyl 2-(6-amino-1H-indol-1-yl)acetate | 5.24 mmol, 1.0 equiv. | NC1=CC=C2C=CN(C2=C1)CC(=O)OC(C)(C)C | C14H18N2O2
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-(5-(3-chloro-1H-pyrrole-2-carboxamido)-1H-indol-1-yl)acetate | Yield: 56% | ClC1=C(NC=C1)C(=O)NC=1C=C2C=CN(C2=CC1)CC(=O)OC(C)(C)C | C19H20ClN3O3
